US05387397
(d) Preparation of N,N-dimethyl-2-(2-furoyl)ethylamine hydrochloride
2-Acetylfuran (13.8 g), dimethylamine hydrochloride (13.3 g), paraformaldehyde (5.0 g) and ethanol (80 ml) acidified with concentrated HCl (1.0 ml) were stirred. Part of this mixture (27 ml) was pumped through the CMR (18 ml/min; 160°-70° C.; 500 kPa;) and the hot product collected in an ice-water cooled flask, to afford pale yellow crystals m.p. 172.5°-173° C. (cf lit.10 m.p. 173°-4° C.) in 13% yield.

reactant | 2-Acetylfuran | 13.8 g | C(C)(=O)C=1OC=CC1 | C6H6O2
reactant | dimethylamine hydrochloride | 13.3 g | Cl.CNC
reactant | paraformaldehyde | 5.0 g | C=O | CH2O
reactant | HCl | 1.0 ml | Cl | ClH
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | N,N-dimethyl-2-(2-furoyl)ethylamine hydrochloride | 13% yield | Cl.CN(C)CCC(=O)C=1OC=CC1 | InChI=1S/C9H13NO2.ClH/c1-10(2)6-5-8(11)9-4-3-7-12-9;/h3-4,7H,5-6H2,1-2H3;1H
